US07105507B2
1-Oxa-8-azaspiro[4.5]decane Hydrochloride
Methanolic hydrogen chloride (3M, 20 mL) was added over 10 minutes to a stirred, cooled (0° C.) solution of 1,1-dimethylethyl 1-oxa-8-azaspiro[4.5]decane-8-carboxylate (Description 74, 3.18 g, 13.2 mmol) in methanol (10 mL) and the mixture was stirred at room temperature for 3 hours. The solvent was evaporated under reduced pressure to give the title compound (2.29 g, 98%). m/z (ES+) 142 (M+1).

reactant | hydrogen chloride | 3M, 20 mL | Cl | ClH
reactant | 1,1-dimethylethyl 1-oxa-8-azaspiro[4.5]decane-8-carboxylate | 13.2 mmol, 3.18 g | O1CCCC12CCN(CC2)C(=O)OC(C)(C)C | C13H23NO3
solvent | methanol | 10 mL | CO | CH4O
product | 1-Oxa-8-azaspiro[4.5]decane Hydrochloride | 2.29 g, 98% | Cl.O1CCCC12CCNCC2 | InChI=1S/C8H15NO.ClH/c1-2-8(10-7-1)3-5-9-6-4-8;/h9H,1-7H2;1H
